US08470982B2
Preparation of 2-(2,4,6-trimethyl-phenyl)-propan-2-ol (3l)
According to Example 3, mesitylmagnesium bromide (1.20 M in THF; 1.83 mL; 2.20 mmol; 1.10 equiv) was placed in a flame dried schlenk flask under an argon atmosphere and cooled to 0° C. At this temperature, LaCl3.2LiCl (0.33 M; 6.06 mL, 2.00 mmol, 1.00 equiv) was slowly added. The resulting mixture was allowed to warm up to room temperature and stirred for 4 h. Then, after cooling to 0° C., acetone (116 mg; 2.00 mmol) was added and the reaction was warmed up to room temperature and stirred for another hour at this temperature. When the end of the reaction was reached (GC-monitoring of aliquots), sat. aq. NH4Cl (2 mL) and water (2 mL) were added. The aqueous layer was extracted with ether (4×10 mL), the combined extracts were dried (Na2SO4) and evaporated in vacuo. Column chromatographical purification (silica; pentane:Et2O 9:1) afforded the desired product as colorless, crystalline solid, mp=106−107° C. (245 mg, 69%).

reactant | mesitylmagnesium bromide | 2.20 mmol, 1.20 M, 1.83 mL, 1.10 equiv | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | acetone | 2.00 mmol, 116 mg | CC(=O)C | C3H6O
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | water | 2 mL | O | H2O
product | 2-(2,4,6-trimethyl-phenyl)-propan-2-ol | CC1=C(C(=CC(=C1)C)C)C(C)(C)O | C12H18O
